US08648200B2
N-Methoxy-N-methyl-6-(trifluoromethyl)pyridine-3-carboxamide
Dissolve 6-(trifluoromethyl)pyridine-3-carboxylic acid (0.949 g, 4.767 mmol) in DMF (10 mL) and add N,O-dimethylhydroxylamine hydrochloride (0.590 g, 5.959 mmol), and DIPEA (1.67 mL, 9.534 mmol), followed by BOP (2.259 g, 5.005 mmol). Stir the resulting mixture for about 60 hours. Pour reaction mixture into water (200 mL). Extract with EtOAc (4×75 mL). Wash the combined organic extracts with a saturated sodium chloride aqueous solution (5×75 mL). Dry the organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Dissolve the residue in EtOAc (100 mL). Sequentially wash the residue in EtOAc with a saturated NaHCO3 aqueous solution (50 mL) to remove any residual acid starting material, followed by water (2×50 mL), and then a saturated sodium chloride aqueous solution (2×50 mL). Dry the organic layer over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure to give the title compound as a clear liquid (1.04 g, 93% yield). 1H NMR (400.43 MHz, d6-DMSO) δ 8.90 (d, J=2.0 Hz, 1H), 8.25-8.23 (m, 1H), 7.96 (dd, J=0.7, 8.1 Hz, 1H), 3.52 (s, 3H), 3.27 (s, 3H).

reactant | 6-(trifluoromethyl)pyridine-3-carboxylic acid | 4.767 mmol, 0.949 g | FC(C1=CC=C(C=N1)C(=O)O)(F)F | C7H4F3NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.959 mmol, 0.590 g | Cl.CNOC
reactant | DIPEA | 9.534 mmol, 1.67 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 5.005 mmol, 2.259 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | N-Methoxy-N-methyl-6-(trifluoromethyl)pyridine-3-carboxamide | 1.04 g, 93% yield | CON(C(=O)C=1C=NC(=CC1)C(F)(F)F)C | C9H9F3N2O2
